US04505929
1-(4-(Methylthio)phenoxy)-2,4-dinitrobenzene
To a solution of 15.4 g (0.110 mole) of 4-(methylthio)phenol dissolved in 150 ml of sulfolane was added 4.40 g (0.110 mole) of NaOH. The mixture was heated to 65° C. and 20.25 g (0.100 mole) of 2,4-dinitrochlorobenzene added and the reaction mixture heated at 65° C. for 3.25 hrs. The product was recovered (29.8 g, 97.4% yield) as described in Example 1 and recrystallized from ethanol, which gave purified 1-(4-(methylthio)phenoxy)-2,4-dinitrobenzene, mp 119°-120.5° C.

reactant | 4-(methylthio)phenol | 0.110 mole, 15.4 g | CSC1=CC=C(C=C1)O | C7H8OS
reactant | NaOH | 0.110 mole, 4.40 g | [OH-].[Na+]
reactant | 2,4-dinitrochlorobenzene | 0.100 mole, 20.25 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])Cl | C6H3ClN2O4
solvent | sulfolane | 150 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | 1-(4-(Methylthio)phenoxy)-2,4-dinitrobenzene | 97.4% yield | CSC1=CC=C(OC2=C(C=C(C=C2)[N+](=O)[O-])[N+](=O)[O-])C=C1 | C13H10N2O5S
